US07282512B2
To a solution of 2 mL (18.3 mmol) of benzothiazole in 20 mL of tetrahydrofuran was added 11.4 mL (18.2 mmol) of 1.6 M n-BuLi at −78° C. After 45 min, 1.6 mL (18.1 mmol) of cyclopentanone was added at the same temperature. The reaction was let warm to room temperature over 1 h. Water was added to quench the reaction and the mixture was extracted with ether (3×). The ether layer was washed with brine (3×) and dried over magnesium sulfate. After removal of solvent, purification by silica gel column chromatography eluting with hexane:ethyl acetate (4:1) gave 2.8 g (71%) of 1-(1,3-benzothiazol-2-yl)cyclopentanol as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.02 (d, J=8 Hz, 1H), 7.92 (d, J=8 Hz, 1H), 7.51 (t, J=8 Hz, 1H), 7.41 (t, J=8 Hz, 1H), 2.25 (m, 4H), 2.00 (m, 4H).

reactant | benzothiazole | 18.3 mmol, 2 mL | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | n-BuLi | 18.2 mmol, 1.6 M, 11.4 mL | [Li]CCCC
reactant | cyclopentanone | 18.1 mmol, 1.6 mL | C1(CCCC1)=O | C5H8O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(1,3-benzothiazol-2-yl)cyclopentanol | 2.8 g, 71% | S1C(=NC2=C1C=CC=C2)C2(CCCC2)O | C12H13NOS
